US07910613B2
2-Amino-4-phenyl-thiazole-5-carboxylic Acid Hydrazide
2-Amino-4-phenyl-thiazole-5-carboxylic acid ethyl ester (5.0 g, 20 mmol) was suspended in methanol. Hydrazine monohydrate (5 mL, 100 mmol) was added and heated to reflux for 2 h. Hydrazine monohydrate (10 mL) was added and heated to reflux for 48 h. Water (100 mL) was added to the reaction mixture and the methanol was removed by evaporation in vacuo. The product precipitates and the solid product is collected by filtration. Yield: 70%.

reactant | 2-Amino-4-phenyl-thiazole-5-carboxylic acid ethyl ester | 20 mmol, 5.0 g | C(C)OC(=O)C1=C(N=C(S1)N)C1=CC=CC=C1 | C12H12N2O2S
reactant | Hydrazine monohydrate | 100 mmol, 5 mL | O.NN
reactant | Hydrazine monohydrate | 10 mL | O.NN
reactant | Water | 100 mL | O | H2O
solvent | methanol | CO | CH4O
product | 2-Amino-4-phenyl-thiazole-5-carboxylic Acid Hydrazide | Yield: 70% | NC=1SC(=C(N1)C1=CC=CC=C1)C(=O)NN | C10H10N4OS
